US07132432B2
To a solution of but-3-en-2-ol (5.0 g, 69.34 mmol) in CH2Cl2 (100 mL) at 0° C. was added imidazole (5.66 g, 1.2 eq) and TBSCl (10.45 g, 1.0 eq). The reaction mixture was stirred at 0° C. to rt for 3 h. Solid was filtered off, the filtrate was concentrated and passed through a short silica gel column by eluting with hexane to give tert-butyl-dimethyl-(1-methyl-allyloxy)-silane (10.86 g, 85%) as a colorless oil.

reactant | but-3-en-2-ol | 69.34 mmol, 5.0 g | CC(C=C)O | C4H8O
reactant | imidazole | 5.66 g, 1.2 eq | N1C=NC=C1 | C3H4N2
reactant | TBSCl | 10.45 g, 1.0 eq | CC(C)(C)[Si](C)(C)Cl | C6H15ClSi
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
product | tert-butyl-dimethyl-(1-methyl-allyloxy)-silane | 10.86 g, 85% | C(C)(C)(C)[Si](OC(C=C)C)(C)C | C10H22OSi
